US05254655
In a small beaker was suspended 3.0 g (21.7 mmol) of p-nitroaniline in 20 ml 5N HCl and 5 ml of distilled water. The suspension was cooled to 0° C. in an ice bath and 1.6 g of NaNO2 dissolved in 3 ml of distilled water was slowly added via a pipette over 15 minutes while the temperature of the suspension was kept under 4° C. When all the sodium nitrite had been added, the suspension was stirred for an additional 1 hour. In a separate beaker, was combined 10 g sodium acetate, 20 ml of acetic acid and 3.9 g (26.1 mmol) of 3-(N-allyl-N-methylamino)phenol and the beaker was cooled to 0° C. The contents of the first beaker were added to the second beaker slowly with stirring. After 45 minutes, the contents of the beaker were poured into 100 ml of ice water and saturated aqueous sodium bicarbonate solution was added until the foaming stopped. The red solid was filtered, washed with excess distilled water and dried in a vacuum desiccator overnight to yield 6.9 g of N-allyl-N-methyl-4-(4'-nitrophenylazo)-3-hydroxyaniline. Recrystallization from THF/ethanol yielded 3.5 g as maroon needles.

reactant | p-nitroaniline | 21.7 mmol, 3.0 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | NaNO2 | 1.6 g | N(=O)[O-].[Na+]
reactant | sodium acetate | 10 g | C(C)(=O)[O-].[Na+]
reactant | 3-(N-allyl-N-methylamino)phenol | 26.1 mmol, 3.9 g | C(C=C)N(C)C=1C=C(C=CC1)O | C10H13NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | HCl | 5N, 20 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | water | 3 ml | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N-allyl-N-methyl-4-(4'-nitrophenylazo)-3-hydroxyaniline | 6.9 g | C(C=C)N(C1=CC(=C(C=C1)N=NC1=CC=C(C=C1)[N+](=O)[O-])O)C | C16H16N4O3
